US04077980
The starting material is prepared as follows: To the solution, made by adding dropwise 132 ml of n-butyl lithium in hexane to 21.2 g of diisopropylamine in 500 ml of tetrahydrofuran while stirring under nitrogen at -30° for 15 minutes, and cooling it to -70°, 49.5 g of carboethoxyethyl-2,2-diethoxy ethylsulfide are added dropwise over a period of 4 minutes. After stirring at -70° for 1 hour, 49.2 g of 7-iodo-5 -heptynoic acid nitrile are added dropwise during 10 minutes. The mixture is stirred at -70° for 6 hours and allowed to warm up to room temperature overnight. It is poured into water, extracted with diethyl ether, the extract washed with water, dried and evaporated, to yield the ethyl 2-(2,2-diethoxyethylmercapto)-8 cyano-4-octynoate.

reactant | n-butyl lithium | 132 ml | C(CCC)[Li]
reactant | diisopropylamine | 21.2 g | C(C)(C)NC(C)C | C6H15N
reactant | carboethoxyethyl-2,2-diethoxy ethylsulfide | 49.5 g | C(=O)(OCC)CCC(CSCC(CCC(=O)OCC)(OCC)OCC)(OCC)OCC | C22H42O8S
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | ethyl 2-(2,2-diethoxyethylmercapto)-8 cyano-4-octynoate | C(C)OC(CSC(C(=O)OCC)CC#CCCCC#N)OCC | C17H27NO4S
